US04774319
6. Boc-Ala-Ile-OBzl (EP-2)
23.61 g of tosylate of H-Ile-OBzl and 11.35 g of Boc-Ala-OH are suspended in 500 ml of AcOEt. To this mixture 6.07 g of Et3N and 8.92 g of HOBt and then 12.65 g of WSC are added with cooling in an ice bath. Stirring is continued whilst cooling the reaction mixture in an ice bath (2 hrs) then at ambient temperature for 15 hrs. To this mixture a 5% aqueous solution of citric acid is added. The organic phase is washed with a 5% aqueous solution of sodium bicarbonate, with a saturated aqueous solution of sodium chloride. The organic phase is dried over Na2SO4 and evaporated to dryness. The oily product is obtained.

reactant | tosylate | 23.61 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1
reactant | H-Ile-OBzl | N[C@@H]([C@@H](C)CC)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | Boc-Ala-OH | 11.35 g | N([C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C8H15NO4
reactant | HOBt | 8.92 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 12.65 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | AcOEt | 500 ml | CCOC(=O)C | C4H8O2
solvent | Et3N | 6.07 g | CCN(CC)CC | C6H15N
product | Boc-Ala-Ile-OBzl | N([C@@H](C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H32N2O5
